US08202856B2
1-(4-{5-[1-(2-fluorophenyl)-5-pyridin-4-yl-1H-1,2,3-triazol-4-yl]-1,2,4-oxadiazol-3-yl}phenyl)-N-methylmethanamine
The title compound was prepared following the procedure described for Example 94, but starting from 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde, obtained as described in Example 113, Step 1, (100 mg; 0.24 mmol) and methylamine hydrochloride (32.7 mg; 0.48 mmol) to give Example 129 as a white solid. 1H NMR: (DMSO-d6, 400 MHz) δ 8.76-8.73 (2H, m), 7.97-7.87 (3H, m), 7.76-7.69 (1H, m), 7.64-7.49 (6H, m), 3.76 (2H, s), 2.31 (3H, s). LC/MS (Method C): 428 (M+H)+. HPLC (Method E) Rt 2.14 min (Purity: 98.9%).

reactant | 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C(C=O)C=C1 | C22H13FN6O2
reactant | methylamine hydrochloride | 0.48 mmol, 32.7 mg | Cl.CN
product | 1-(4-{5-[1-(2-fluorophenyl)-5-pyridin-4-yl-1H-1,2,3-triazol-4-yl]-1,2,4-oxadiazol-3-yl}phenyl)-N-methylmethanamine | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C(C=C1)CNC | C23H18FN7O
